US07700638B2
1.7-Diphenyl-5-trifluoromethylbenzimidazole
A mixture of 7-iodo-1-phenyl-5-trifluoromethylbenzimidazole (370 mg, 1 mmol), benzeneboronic acid (180 mg, 1.5 mmol), potassium carbonate (700 mg, 5 mmol) and tetrakis(triphenylphosphine)palladium(0) (29 mg, 0.025 mmol) in a mixture of water (5 ml) and dimethoxyethane (10 ml) was stirred at reflux overnight. The cooled mixture was partitioned between water and ethyl acetate. The organic phase was collected, washed with brine, dried and concentrated under reduced pressure. Recrystallisation from methanol afforded the product as an off-white solid (160 mg, 47%), m/z, 339.1 (M+H)+.

reactant | 7-iodo-1-phenyl-5-trifluoromethylbenzimidazole | 1 mmol, 370 mg | IC1=CC(=CC2=C1N(C=N2)C2=CC=CC=C2)C(F)(F)F | C14H8F3IN2
reactant | benzeneboronic acid | 1.5 mmol, 180 mg | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | potassium carbonate | 5 mmol, 700 mg | C([O-])([O-])=O.[K+].[K+]
solvent | water | 5 ml | O | H2O
solvent | dimethoxyethane | 10 ml | C(OC)COC | C4H10O2
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.025 mmol, 29 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 1.7-Diphenyl-5-trifluoromethylbenzimidazole | 160 mg, 47% | C1(=CC=CC=C1)N1C=NC2=C1C(=CC(=C2)C(F)(F)F)C2=CC=CC=C2 | C20H13F3N2
